US05364559
Separately, 3.12 g of 5-n-decyl-2-(4-hydroxyphenyl)pyrimidine and 0.53 g of potassium hydroxide were added to 14 ml of dimethylformamide, and the mixture was stirred for 3 hours at 100° C. To the mixture was added the above-prepared 2.98 g of 6-pentyloxyheptyl-p-toluenesulfonate followed by 5 hours of stirring under heating at 100° C. After the reaction, the reaction mixture was poured into 200 ml of cold water and acidified to about pH 3 with 6N-hydrochloric acid and extracted with benzene, followed by washing with water, drying with anhydrous magnesium sulfate and distilling-off of the solvent, to obtain 4.71 g of crude product. The product was purified by silica gel column chromatography (n-hexane/ethyl acetate=10/2) and recrystallized from hexane to obtain 1.56 g of 5-n-decyl-2-[4-(6-pentyloxyheptyloxy)phenyl]pyrimidine.

reactant | 5-n-decyl-2-(4-hydroxyphenyl)pyrimidine | 3.12 g | C(CCCCCCCCC)C=1C=NC(=NC1)C1=CC=C(C=C1)O | C20H28N2O
reactant | potassium hydroxide | 0.53 g | [OH-].[K+]
reactant | 6-pentyloxyheptyl-p-toluenesulfonate | 2.98 g | C(CCCC)OC(CCCCCOS(=O)(=O)C1=CC=C(C=C1)C)C | C19H32O4S
reactant | hydrochloric acid | Cl | ClH
solvent | water | 200 ml | O | H2O
solvent | dimethylformamide | 14 ml | CN(C=O)C | C3H7NO
product | 5-n-decyl-2-[4-(6-pentyloxyheptyloxy)phenyl]pyrimidine | 1.56 g | C(CCCCCCCCC)C=1C=NC(=NC1)C1=CC=C(C=C1)OCCCCCC(C)OCCCCC | C32H52N2O2
